US04232163
Preparation of N-isopropyl-4'-chloro-4-bromo-2-methylacetoacetanilide
To a reaction flask which contained 71.6 g (0.267 mole) of N-isopropyl-4'-chloro-2-methylacetoacetanilide dissolved in 360 ml of glacial acetic acid, there was added dropwise a solution of 42.7 g (0.267 mole) of bromine in 30 ml of acetic acid. The solution was stirred overnight at ambient temperature. On the following morning, the reaction solution was added to two liters of cold water and the organic material was extracted into toluene. The latter was washed with water and dried over sodium sulfate. After removal of the solvent, there was obtained 86.6 g (97%) of residual oil. N.M.R. (CDCl3) ∂0.9-1.4 (CH3, 9 protons), 3.3-3.6 (CH), 3.9-4.0 (CH2Br), 4.8-5.2 (CH, isopropyl), 7.1-7.6 (aromatic).

reactant | N-isopropyl-4'-chloro-2-methylacetoacetanilide | 0.267 mole, 71.6 g | C(C)(C)N(C1=CC=C(C=C1)Cl)C(C(C(=O)C)C)=O | C14H18ClNO2
reactant | bromine | 0.267 mole, 42.7 g | BrBr | Br2
reactant | water | two liters | O | H2O
solvent | acetic acid | 360 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | N-isopropyl-4'-chloro-4-bromo-2-methylacetoacetanilide | 86.6 g, 97% | C(C)(C)N(C1=CC=C(C=C1)Cl)C(C(C(=O)CBr)C)=O | C14H17BrClNO2
